US07109229B2
To a mixture of 7-indolecarboxaldehyde (1.0 g, 6.90 mmol) and LiCN 1.5THF (72.5 mg, 0.69 mmol) in 50 ml THF, was added (EtO)2P(O)CN (1.36 ml) at 0° C. The reaction was stirred at rt overnight, and then t-butanol (0.79 ml) was added. The mixture was cannulated into a flask containing an 0.1 M solution of SmI2 in THF (159 ml). Additional SMI2 (10 mol %) was added until no color change was observed. The mixture was stirred for 30 min, and then concentrated and the residue poured into ethyl acetate. The organic layer was washed with 1.0 N HCl, saturated aqueous NaHCO3 and brine, dried over anhydrous MgSO4, filtered and concentrated. The residue was purified by flash chromatography with Hexane:Ethyl acetate=2:1, to give (1H-Indol-7-yl)-acetonitrile as white solid, (300 mg, 30%). MS (m/z) 157.0 (M++1), 155.0 (M+−1). 1HNMR (DMSO) 11.26 (s, 1H), 7.50 (d, J=6.0 Hz, 1H), 7.39 (m, 1H), 7.06 (d, J=5.4 Hz, 1H), 6.97 (dd, J=5.4 Hz, 1H), 6.46 (m, 1H), 4.18 (s, 2H).

reactant | 7-indolecarboxaldehyde | 6.90 mmol, 1.0 g | N1C=CC2=CC=CC(=C12)C=O | C9H7NO
reactant | LiCN | [Li]C#N
reactant | (EtO)2P(O)CN | 1.36 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | t-butanol | 0.79 ml | C(C)(C)(C)O | C4H10O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 159 ml | C1CCOC1 | C4H8O
product | (1H-Indol-7-yl)-acetonitrile | N1C=CC2=CC=CC(=C12)CC#N | C10H8N2
